US09238639B2
To MsOH (5 mL) was added methyl 4-((3-chloro-5-methoxyphenyl)sulfanyl)-3-oxobutanoate (1.41 g) at 0° C. The mixture was stirred at the same temperature for 15 min. The mixture was poured into ice water and extracted with EtOAc. The organic layer was separated, washed successively with 0.1N NaOH and brine, dried over MgSO4 and concentrated in vacuo. The residue was subjected to silica gel column chromatography (EtOAc/hexane) to give methyl (4-chloro-6-methoxy-1-benzothiophen-3-yl)acetate as a crude product (1.280 g). The product was used to the next step without further purification. To a mixture of aluminum chloride (0.894 g) and toluene (30 mL) was added 1-dodecanethiol (5.32 mL) at 0° C., and the mixture was stirred at the same temperature for 30 min. A solution of methyl (4-chloro-6-methoxy-1-benzothiophen-3-yl)acetate obtained above (1.21 g) in toluene (15 mL) were added to the mixture at 0° C., and the mixture was stirred at room temperature for 40 h. The mixture was poured into water at 0° C. and extracted with EtOAc. The organic layer was separated, washed successively with water and brine, dried over MgSO4 and concentrated in vacuo. The residue was diluted with MeOH (50 mL), and the mixture was treated with conc. H2SO4 (100 μL). The mixture was refluxed for 2 h. The mixture was concentrated under reduced pressure. To the residue was added brine at room temperature, and the mixture was extracted with EtOAc. The organic layer was separated, washed with brine, dried over MgSO4 and concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/hexane) to give the title compound (0.558 g).

reactant | MsOH | 5 mL | S(=O)(=O)(C)O | CH4O3S
reactant | methyl 4-((3-chloro-5-methoxyphenyl)sulfanyl)-3-oxobutanoate | 1.41 g | ClC=1C=C(C=C(C1)OC)SCC(CC(=O)OC)=O | C12H13ClO4S
product | methyl (4-chloro-6-methoxy-1-benzothiophen-3-yl)acetate | ClC1=CC(=CC2=C1C(=CS2)CC(=O)OC)OC | C12H11ClO3S
